US06617326B2
c) 7-Bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
To a solution of 3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.2211 g, 1.18 mmol) in acetic acid (6 ml) was added sodium acetate (0.1470 g, 1.79 mmol), then bromine (90.8 μl, 1.76 mmol). The solution was stirred at room temperature for 6 h, then partitioned between saturated aqueous NaHCO3 (100 ml) and ethyl acetate (100 ml). The aqueous layer (pH 9) was further extracted with ethyl acetate (100 ml), and the combined organic extracts were dried (Na2SO4) and evaporated it vacuo. The residue was purified by flash chromatography (silica gel, 25% EtOAc/isohexane) to afford 0.2073 g (66%) of the title compound: 1H NMR (360 MHz, CDCl3) δ 8.30 (1H, s), 8.83 (1H, s).

reactant | 3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 1.18 mmol, 0.2211 g | FC(C1=NC=2N(N=C1)C=CN2)(F)F | C6H3F3N4
reactant | sodium acetate | 1.79 mmol, 0.1470 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 1.76 mmol, 90.8 μl | BrBr | Br2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 7-Bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.2073 g, 66% | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
